US05554630
4-Aminobiphenyl (15 g, 88.76 mmol)in toluene (250 ml) was added acetic anhydride (8.5 ml, 90 mmol). The mixture was stirred at ambient temperature for 1 hour. Following the reaction the mixture was poured into petroleum ether (500 ml), the product was filtered off, washed with petroleum ether and dried to yield 4-acetaminobiphenyl (18.7 g).

reactant | 4-Aminobiphenyl | 88.76 mmol, 15 g | NC1=CC=C(C=C1)C1=CC=CC=C1 | C12H11N
reactant | acetic anhydride | 90 mmol, 8.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 4-acetaminobiphenyl | 18.7 g | N(C(=O)C)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H13NO
